US06180622B2
c) (3S,5S)-3-Acetylthio-1-allyloxycarbonyl-5-[2-(imidazo[5,1-b]thiazol-2-yl)vinyl]pyrrolidine (a mixture of geometrical isomers)
Potassium thioacetate (0.22 g) is added to a solution of 1.07 g of (3R,5S)-1-allyloxycarbonyl-3-methane sulfonyloxy-5-[2-(imidazo[5,1-b]thiazol-2-yl)vinyl]pyrrolidine (a mixture of geometrical isomers) in 5 ml of DMF, and the mixture is stirred at 70° C. for 4 hr. Ethyl acetate is added to the reaction mixture, and the mixture is successively washed with water and a saturated aqueous sodium hydrogencarbonate solution, and saturated saline and dried over magnesium sulfate. The solvent is removed by evaporation. The residue is purified by column chromatography on silica gel to give 0.42 g of the title compound.

reactant | Potassium thioacetate | 0.22 g | C(C)(=S)[O-].[K+]
reactant | (3R,5S)-1-allyloxycarbonyl-3-methane sulfonyloxy-5-[2-(imidazo[5,1-b]thiazol-2-yl)vinyl]pyrrolidine | 1.07 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C=CC1=CN2C(S1)=CN=C2)OS(=O)(=O)C | C16H19N3O5S2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (3S,5S)-3-Acetylthio-1-allyloxycarbonyl-5-[2-(imidazo[5,1-b]thiazol-2-yl)vinyl]pyrrolidine | 0.42 g | C(C)(=O)S[C@@H]1CN([C@@H](C1)C=CC1=CN2C(S1)=CN=C2)C(=O)OCC=C | C17H19N3O3S2
